US06500863B1
N-[3-(tert-butoxycarbonylamino)propyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide
N-[3-(tert-butoxycarbonylamino)propyl]-6-chloro-2-hydroxy-3-nitrobenzene-sulfonamide (250 mg, 0.61 mmol) was reduced with hydrogen and 10% Pd/C (100 mg) to form the desired product (220 mg, 95%). 1H NMR (MeOD-d4): δ 6.82 (m, 2H), 3.06 (t, 2H), 2.92 (t, 2H), 1.60 (m, 2H), 1.41 (s, 9H).

reactant | N-[3-(tert-butoxycarbonylamino)propyl]-6-chloro-2-hydroxy-3-nitrobenzene-sulfonamide | 0.61 mmol, 250 mg | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C14H20ClN3O7S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-[3-(tert-butoxycarbonylamino)propyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 220 mg, 95% | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C14H22ClN3O5S
